### PR TITLE
feat: add hard theorems from Isabelle

### PR DESCRIPTION
**Pull request by bollu**
This file contains bitvector theorems that stress Isabelle automation.
We port the file to Lean for comparison.

### CODE REVIEW

File: Proofs/Experiments/IsabelleHard.lean [hunk 1]
```diff
@@ -0,0 +1,202 @@
...
+-/
+
+import Tactics.Sym
+import Init.Data.BitVec.Folds
+import Init.Data.BitVec.Bitblast
+import Init.Data.BitVec.Lemmas
+open BitVec
+
+/--
+`mask w n` is an w-bit word where the low `n`
```
Comment (shigoel) [inline Proofs/Experiments/IsabelleHard.lean:17]:
```suggestion
`mask w i` is an w-bit word where the low `i`
```

File: Proofs/Experiments/IsabelleHard.lean [hunk 2]
```diff
@@ -0,0 +1,202 @@
...
+mask_split_left
+∀x, y: word64. ∀n: ℕ.
+    ((x & (mask64 m << n) | x & mask64 n) = y)
+    ⟹
+    (x & (mask m64 << n) = (y & (mask64 m << n)))
+-/
+theorem mask_split_left (x y : BitVec 64) (n m : Nat)
+    (h : (x &&& (mask64 m <<< n) ||| x &&& mask64 n) = y) :
+    x &&& (mask64 m <<< n) = (y &&& (mask64 m <<< n)) := by
+  bv_decide  -- sus
```
Comment (shigoel) [inline Proofs/Experiments/IsabelleHard.lean:94]: Why "sus"?

File: Proofs/Experiments/IsabelleHard.lean [hunk 3]
```diff
@@ -0,0 +1,202 @@
...
+mask_split_right
+∀x, y: word64. ∀n: ℕ.
+    ((x & (mask64 m << n)) | (x & mask64 n)) = y)
+    ⟹
+    ((x & mask64 n) = (y & mask64 n))
+-/
+theorem mask_split_right (x y : BitVec 64) (n m : Nat)
+    (h : ((x &&& (mask64 m <<< n)) ||| (x &&& mask64 n)) = y) :
+    x &&& mask64 n = y &&& mask64 n := by
+  bv_decide -- sus
```
Comment (shigoel) [inline Proofs/Experiments/IsabelleHard.lean:111]: Same comment: why "sus"? Let's trace `bv_decide` if this is a concern (or introduce a bug deliberately to see what the cex looks like)

File: Proofs/Experiments/IsabelleHard.lean (hunk 2 above)
Comment (bollu) [reply Proofs/Experiments/IsabelleHard.lean:94]:
```lean
theorem mask_split_left (x y : BitVec 64) (n m : Nat)
    (h : (x &&& (mask64 m <<< n) ||| x &&& mask64 n) = y) :
    x &&& (mask64 m <<< n) = (y &&& (mask64 m <<< n)) := by
  bv_decide  -- sus
```

I marked it as sus because I don't see how a SAT solver can prove it without unfolding what mask64 means, and IIRC LeanSAT doesn't unfold definitions. Let me understand why it succeeds.

File: Proofs/Experiments/IsabelleHard.lean (hunk 3 above)
Comment (bollu) [reply Proofs/Experiments/IsabelleHard.lean:111]: Same as above.

File: Proofs/Experiments/IsabelleHard.lean [hunk 4]
```diff
@@ -0,0 +1,202 @@
+/-
+Copyright (c) 2024 Amazon.com, Inc. or its affiliates. All Rights Reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Author(s): Siddharth Bhat
+
+This file contains bitvector theorems that stress Isabelle automation.
+We port the file to Lean for comparison.
+-/
+
+import Tactics.Sym
```
[the remark this answers is not in the document]
Comment (bollu) [reply Proofs/Experiments/IsabelleHard.lean]: Fixed. I directly import LeanSAT now.

**Comment by bollu** [comment]
turns out the statement of `mask_split_left` (resp. `mask_split_right`) was stronger than necessary, and the theorem isn't about masks at all. For sanity, we prove variants where the symbols are treated as uninterpreted.

**Comment by bollu** [comment]
@shigoel all comments resolved.

File: Proofs/Experiments/IsabelleHard.lean [hunk 5]
```diff
@@ -0,0 +1,238 @@
...
+open BitVec
+
+/--
+`mask w n` is an w-bit word where the low `n`
+bits are `1`s and the upper bits are `0`s.
+ -/
+def mask (w : Nat) (i : Nat) : BitVec w :=
+  match i with
+  | 0 => 0#w
+  | i' + 1 => 1#w <<< i' ||| mask w i'
```
Comment (tobiasgrosser) [inline Proofs/Experiments/IsabelleHard.lean:20]: Rather than a recursive match, can you just make this left shift of allOnes and then negate this? This seem to preserver more of the structure.

**Comment by shigoel** [comment]
@bollu Shall we close this PR?

**Comment by bollu** [comment]
Yep, closing.
